US08912188B2
To a solution of (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (150 mg, 0.41 mmol) in dioxane (5.0 mL) and water (3 drops) was added (4-fluoro-2-methylphenyl)boronic acid (101 mg, 0.66 mmol), Pd(PPh3)4 (19.0 mg, 0.02 mmol), and K3PO4 (138.3 mg, 0.65 mmol). The reaction was stirred for 1 hour at 90° C. under a nitrogen atmosphere. The resulting solution was concentrated in vacuo, and then purified by silica gel column chromatography (1% ethyl acetate in petroleum ether) to provide (S)-methyl 2-(4-fluoro-2-methylphenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate as a yellow solid (120 mg, 78%).

reactant | (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 0.41 mmol, 150 mg | C[C@@H]1N(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C16H16F3N3O5S
reactant | (4-fluoro-2-methylphenyl)boronic acid | 0.66 mmol, 101 mg | FC1=CC(=C(C=C1)B(O)O)C | C7H8BFO2
reactant | K3PO4 | 0.65 mmol, 138.3 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 19.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-methyl 2-(4-fluoro-2-methylphenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 120 mg, 78% | FC1=CC(=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC)C | C22H22FN3O2
